US07163936B2
To a solution of 1-allyl 3-methyl (2S)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate (0.20 g, 0.55 mmol) and bromochloromethane (54 ml, 0.83 mmol) in THF (6 ml) was added at −90 to −80° C. a solution of n-butyllithium in hexane (1.59M, 0.52 ml, 0.83 mmol) over a 10 minutes period. After stirring for additional 30 minutes, the reaction mixture was poured into a mixture of ice (10 g) and phosphate buffer (pH 7.0, 10 ml). After ethyl acetate was added and the mixture was separated with a separating funnel, the aqueous layer was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride, dried over magnesium sulfate and the organic solvent was removed under reduced pressure. The residue was purified by silica gel (27 g) chromatography to give allyl (2S)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-(chloroacetyl)-2,5-dihydro-1H-pyrrole-1-carboxylate (163 mg, 79%).

reactant | 1-allyl 3-methyl (2S)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate | 0.55 mmol, 0.20 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(CC=C1C(=O)OC)C(=O)OCC=C | C17H29NO5Si
reactant | bromochloromethane | 0.83 mmol, 54 ml | BrCCl | CH2BrCl
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.83 mmol, 1.59M, 0.52 ml | CCCCCC | C6H14
reactant | phosphate | 10 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | allyl (2S)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-(chloroacetyl)-2,5-dihydro-1H-pyrrole-1-carboxylate | 163 mg, 79% | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(CC=C1C(CCl)=O)C(=O)OCC=C | C17H28ClNO4Si
